US07935815B2
Thionyl chloride (4.4 mL) was added to a solution of 3-(4-chlorophenylamino)propan-1-ol (2.17 g) in toluene (30 mL) at room temperature, and the reaction solution was stirred at 60° C. for five hours. The reaction solution was left to cool to room temperature and then concentrated under reduced pressure. Ice and a saturated sodium bicarbonate solution were added, followed by extraction with ethyl acetate (200 mL). Heptane (100 mL) was added to the resulting extract to prepare a mixed solution. The solution was purified by silica gel column chromatography (elution solvent: heptane:ethyl acetate=2:1) to obtain (4-chlorophenyl)-(3-chloropropyl)amine. (4-Chlorophenyl)-(3-chloropropyl)amine was dissolved in THF (45 mL). Triethylamine (4.9 mL) and phenyl chlorocarbonate (1.8 mL) were added at 0° C., and the reaction solution was stirred at room temperature for 15 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate. The resulting extract was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain phenyl (4-chlorophenyl)-(3-chloropropyl)carbamate (3.70 g). Phenyl (4-chlorophenyl)-(3-chloropropyl)carbamate (3.70 g) was dissolved in ethanol (60 mL). Hydrazine monohydrate (5.65 mL) was added at room temperature, and the reaction solution was heated under reflux for 17 hours. The reaction solution was left to cool to room temperature and then concentrated under reduced pressure. A saturated sodium bicarbonate solution was added, followed by extraction with chloroform. The resulting extract was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system, then ethyl acetate-methanol system) to obtain 2.19 g of the title compound. The property values of the compound are as follows.

reactant | Thionyl chloride | 4.4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(4-chlorophenylamino)propan-1-ol | 2.17 g | ClC1=CC=C(C=C1)NCCCO | C9H12ClNO
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | (4-chlorophenyl)-(3-chloropropyl)amine | ClC1=CC=C(C=C1)NCCCCl | C9H11Cl2N
